US07700638B2
7-iodo-5-methyl-1-phenylbenzimidazole
This was prepared in a similar manner to 5-cyano-7-iodo-1-phenylbenzimidazole, using 4-methyl-2,6-dinitrophenol as starting material to realise the desired product (1.45 g, 16%) m/z, 335.1 (M+H)+.

reactant | 5-cyano-7-iodo-1-phenylbenzimidazole | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
reactant | 4-methyl-2,6-dinitrophenol | CC1=CC(=C(C(=C1)[N+](=O)[O-])O)[N+](=O)[O-] | C7H6N2O5
product | 7-iodo-5-methyl-1-phenylbenzimidazole | 1.45 g, 16% | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C | C14H11IN2
